US04935405
A. Boc O-methylhomoserine
Boc-homoserine (0.51 g) was methylated as described for Boc-serine in Example 73. This afforded 0.45 g crude product which was carried on without further purification. NMR (300 MHz, CDCl3) delta 1.40 (s, 9H), 3.16 (s, 3H), 3.90 (m, 2H).

reactant | Boc-homoserine | 0.51 g | C(=O)(OC(C)(C)C)N[C@@H](CCO)C(=O)O | C9H17NO5
reactant | Boc-serine | C(=O)(OC(C)(C)C)N[C@@H](CO)C(=O)O | C8H15NO5
product | Boc O-methylhomoserine | C(=O)(OC(C)(C)C)N[C@@H](CCOC)C(=O)O | C10H19NO5
